US09029405B2
Step 1: 4-(2-hydroxyacetoyl)benzonitrile
Trifluoroacetic acid (3.5 mL; 47.1 mmol) was added to a solution of 4-acetylbenzonitrile (3.40 g; 23.4 mmol) and [bis-(trifluoroacetoxy)iodo]benzene (20.1 g; 46.7 mmol) in acetonitrile/water (5:1; 300 mL). The reaction mixture was heated under reflux for 18 hours. The solvent was removed in vacuo and the residue partitioned between DCM and 10% aqueous potassium carbonate. The organic phase was poured through a hydrophobic frit and the solvent evaporated in vacuo. The residue was purified by flash chromatography eluting with iso-hexane/EtOAc (10:1 to 4:1) to afford the title compound. 1H NMR (CDCl3, 400 MHz) δ 8.04 (d, J=8.4 Hz, 2H), 7.84 (d, J=8.4 Hz, 2H), 4.91 (d, J=2 Hz, 2H), 3.37 (t, J=2.0 Hz, 2H).

reactant | Trifluoroacetic acid | 47.1 mmol, 3.5 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | 4-acetylbenzonitrile | 23.4 mmol, 3.40 g | C(C)(=O)C1=CC=C(C#N)C=C1 | C9H7NO
reactant | [bis-(trifluoroacetoxy)iodo]benzene | 46.7 mmol, 20.1 g | FC(C(=O)OI(OC(C(F)(F)F)=O)C1=CC=CC=C1)(F)F | C10H5F6IO4
solvent | acetonitrile water | 300 mL | C(C)#N.O
product | 4-(2-hydroxyacetoyl)benzonitrile | OCC(=O)C1=CC=C(C#N)C=C1 | C9H7NO2
